US06172057B2
4-(4-n-Butoxy-benzenesulfonyl)-1-(2-phenoxy-ethyl)-piperidine-4-carboxylic acid was prepared starting from 4-(4-n-butoxy-benzenesulfonyl)-1-(2-phenyl-ethoxy)-piperidine-4-carboxylic acid ethyl ester (2.5 g, 5.76 mmol) dissolved in THF:methanol 3:1 and 10 N NaOH (40 ml). The resulting reaction mixture was worked up as outlined in example 83. Yield 1.5 g (56%); off white powder, mp 204° C.; MS: 462.5 (M+H)+.

reactant | 4-(4-n-butoxy-benzenesulfonyl)-1-(2-phenyl-ethoxy)-piperidine-4-carboxylic acid ethyl ester | 5.76 mmol, 2.5 g | C(C)OC(=O)C1(CCN(CC1)OCCC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OCCCC | C26H35NO6S
solvent | THF methanol | C1CCOC1.CO
solvent | NaOH | 10 N, 40 ml | [OH-].[Na+]
product | 4-(4-n-Butoxy-benzenesulfonyl)-1-(2-phenoxy-ethyl)-piperidine-4-carboxylic acid | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)CCOC1=CC=CC=C1)C(=O)O | C24H31NO6S
